US04970207
A mixture of a mixture (0.66 g) of (3R)-1-[2-((2R)-2-tert-butoxycarbonylamino-2-benzhydryloxycarbonylethylthio)ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one and (3S)-1-[2-((2R)-2-tert-butoxycarbonylamino-2benzhydryloxycarbonylethylthio)ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one, anisole (0.6 ml), trifluoroacetic acid (1.5 ml) and dichloromethane (15 ml) was stirred for 3.0 hours at room temperature. After removal of the solvent, the residue was mixed with ethyl acetate (50 ml) and water (50 ml). The mixture was adjusted to pH 6-7 with 5% aqueous solution of sodium bicarbonate under stirring. The organic layer was separated and concentrated. The resultant precipitate was collected by filtration, washed with water and dried to give a mixture (0.20 g) of (3R)-1-[2-((2R)-2-amino-2-carboxyethylthio)ethyl]-1,3-dihydro -3-(2-indolylcarbonylamino -5-phenyl-2H-1,4-benzodiazepine- 2-one and (3S)-1-[2-((2R)-2-amino-2-carboxyethylthio) ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one.

reactant | (3R)-1-[2-((2R)-2-tert-butoxycarbonylamino-2-benzhydryloxycarbonylethylthio)ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | 0.66 g | C(C)(C)(C)OC(=O)N[C@@H](CSCCN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2 | C47H45N5O6S
reactant | (3S)-1-[2-((2R)-2-tert-butoxycarbonylamino-2benzhydryloxycarbonylethylthio)ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | C(C)(C)(C)OC(=O)N[C@@H](CSCCN1C([C@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2 | C47H45N5O6S
reactant | anisole | 0.6 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (3S)-1-[2-((2R)-2-amino-2-carboxyethylthio) ethyl]-1,3-dihydro-3-(2-indolylcarbonylamino) -5-phenyl-2H-1,4-benzodiazepine-2-one | N[C@@H](CSCCN1C([C@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O)C(=O)O | C29H27N5O4S
